US07217723B2
7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid methyl-(2-pyridine-3-vi-ethyl)-amide
From methyl-(2-pyridine-3-yl-ethyl)-amine (the compound of Preparation Example 15) (82 mg) and 7-oxo-4,5,6,7-tetrahydro-benzo-[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (150 mg), the title compound (138 mg) was obtained as a colorless oily matter, in the same way as Preparation Example 41.

reactant | methyl-(2-pyridine-3-yl-ethyl)-amine | CNCCC=1C=NC=CC1 | C8H12N2
reactant | 7-oxo-4,5,6,7-tetrahydro-benzo-[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
product | 7-Oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid methyl-(2-pyridine-3-vi-ethyl)-amide | 138 mg | CN(S(=O)(=O)C=1C2=C(SC1)C(CCC2)=O)CCC=2C=NC=CC2 | C16H18N2O3S2
